US06653330B2
In the same manner as that described in Example 2(1), a reaction was carried out using commercially available 4-aminobenzyl cyanide (329 mg, 2.5 mmol), N,N-diisopropylethylamine (0.91 ml, 5.2 mmol), 4-formylbenzoyl chloride (350 mg, 2.1 mmol) and 4-(dimethylamino)pyridine (a catalytic amount) and the reaction mixture was treated according to a similar procedure to that described in Example 2(1) to afford 4′-(cyanomethyl)-4-formylbenzanilide (370 mg, yield 67%) as a pale yellow solid which was recrystallized from a mixture of ethyl acetate and tetrahydrofuran to give pale yellow powdery crystals.

reactant | 4-aminobenzyl cyanide | 2.5 mmol, 329 mg | NC1=CC=C(CC#N)C=C1 | C8H8N2
reactant | N,N-diisopropylethylamine | 5.2 mmol, 0.91 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-formylbenzoyl chloride | 2.1 mmol, 350 mg | C(=O)C1=CC=C(C(=O)Cl)C=C1 | C8H5ClO2
catalyst | 4-(dimethylamino)pyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 4′-(cyanomethyl)-4-formylbenzanilide | 370 mg, yield 67% | C(#N)CC1=CC=C(NC(C2=CC=C(C=C2)C=O)=O)C=C1 | C16H12N2O2
